US05348962
7-Chloro-4-hydroxy-3-[3-(2-pyridyloxy)phenyl]-2(1H)-quinolone
Potassium bis(trimethylsilyl)amide in toluene (0.5M, 10.8 ml, 5.4 mmol) was added dropwise to a solution of methyl [3-(2-pyridyloxy)phenyl]acetate (0.52 g, 2.14 mmol) and methyl 2-amino-4-chlorobenzoate (0.43 g, 2.32 mmol) in dry THF (30 ml). The reaction mixture was stirred at room temperature for 3 hours then methanol (10 ml) was added. The solution was concentrated in vacuo, the residue was dissolved in 0.5M sodium hydroxide (25 ml) and washed with diethyl ether (2×25 ml). The aqueous phase was acidified with 5M hydrochloric acid. The resultant precipitate was collected and recrystallised from dimethylformamide/water to afford the title compound as a pale cream solid (0.463 g, 59%). A further recrystallisation from propan-2-ol gave analytically pure material; m.p. 269°-271° C. (from propan-2-ol) (Found: C, 65.92; H, 3.71; N, 7.59. C20H13ClN2O3 requires C, 65.85; H, 3.71; N, 7.68%); δH (360 MHz, DMSO-d6) 7.03-7.14 (4H, m, ArH), 7.23 (1H, dt, J 2, 8.5 Hz, ArH), 7.32 (1H, d, J 2 Hz, ArH), 7.43 (1H, t, J 8 Hz, 5'-H), 7.85 (1H, m, ArH), 7.94 (1H, d, J 8.7 Hz, 5-H), 8.18 (1H, dd, J 5, Hz, 6"-H), 10.46 (1H, br s, OH), 11.55 (1H, br s, NH); m/z 364 (M+).

reactant | Potassium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | toluene | 5.4 mmol, 0.5M, 10.8 ml | C1(=CC=CC=C1)C | C7H8
reactant | methyl [3-(2-pyridyloxy)phenyl]acetate | 2.14 mmol, 0.52 g | N1=C(C=CC=C1)OC=1C=C(C=CC1)CC(=O)OC | C14H13NO3
reactant | methyl 2-amino-4-chlorobenzoate | 2.32 mmol, 0.43 g | NC1=C(C(=O)OC)C=CC(=C1)Cl | C8H8ClNO2
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | methanol | 10 ml | CO | CH4O
product | 7-Chloro-4-hydroxy-3-[3-(2-pyridyloxy)phenyl]-2(1H)-quinolone | 0.463 g, 59% | ClC1=CC=C2C(=C(C(NC2=C1)=O)C1=CC(=CC=C1)OC1=NC=CC=C1)O | C20H13ClN2O3
